### ISSUE TITLE
KroneckerDelta/Basic.lean fails to build: 9 errors in the extendIndices / Fin.cycleRange block

### ISSUE THREAD

**Issue by wdconinc** [wdconinc/physlib#14]
## Summary

`Physlib/Mathematics/KroneckerDelta/Basic.lean` fails `lake build` with **9 errors**, all in the `extendIndices` / `Fin.cycleRange` block. Surfaced by CI on PR #1 at `e3c14183` ([run](https://github.com/wdconinc/physlib/actions/runs/35448209587)).

This file had never been compiled in CI before: the workflows' `pull_request` trigger was restricted to `master` until recently, so nothing in the DIS line ever got a compiler. The failure is not new and not a merge artifact — it was independently reproduced on 2026-09-11 against a clean scoped build of the same content.

It is the first module to fail in build order (`✖ [7724/7862]`), so it also masks everything downstream.

## Errors

| Line:col | Error |
|---|---|
| 374:73 | unsolved goals |
| 382:14 | `rewrite` failed — pattern `(submatrix ?A ⇑?e ⇑?e).det` not found |
| 446:6 | `rewrite` failed — pattern `(Fin.last n).succAbove i` not found |
| 518:6 | `rewrite` failed — `extendIndices … (i.castSucc.succAbove p)` not found |
| 534:6 | `rewrite` failed — pattern `(submatrix ?M (⇑?σ) id).det` not found |
| 661:73 | unsolved goals (same shape as 374) |
| 668:14 | `rewrite` failed — same pattern as 382 |
| 685:6 | `rewrite` failed — same pattern as 446 |
| 794:13 | `simp` made no progress |

374/661, 382/668 and 446/685 are pairwise identical in shape: the file carries two parallel developments, one over `Fin (d+1)` and one over a general `Fintype ι`, so a fix in one should transfer to the other.

## Where the evidence points

Six of the nine are `rewrite` failures in which the pattern and the target look like the same expression. At 382:14 the pattern is

```
(submatrix ?A ⇑?e ⇑?e).det
```

and the target contains literally

```
(submatrix (fun i j => (fun ρ σ => ↑δ[ρ,σ]) (extendIndices … μ i) (extendIndices … ν j)) ⇑σ ⇑σ).det
```

`Matrix.det_submatrix_equiv_self` (`Mathlib/LinearAlgebra/Matrix/Determinant/Basic.lean:224`) takes `?A : Matrix m m R`. `Matrix` is a plain `def` (`m → n → α`) and is not reducible, so `rw`'s keyed matching will not unify `?A` against a term already elaborated as a bare function. Mathlib's own implementation notes warn about exactly this shape (`Mathlib/LinearAlgebra/Matrix/Defs.lean`, lines 42-46):

> it is not advisable to _construct_ matrices using terms of the form `fun i j ↦ _` or even `(fun i j ↦ _ : Matrix m n α)`, as these are not recognized by Lean as having the right type. Instead, `Matrix.of` should be used.

and this file does build its matrices that way throughout, starting at `generalizedKroneckerDelta` (line 197):

```lean
def generalizedKroneckerDelta … (μ ν : ι → α) : ℤ :=
  Matrix.det (fun i j => δℤ (μ i) (ν j))
```

## What has already been ruled out

**The simple version of that hypothesis does not reproduce.** A previous investigation tested whether a bare lambda simply fails to elaborate as a `Matrix` argument, and it does not — this elaborates without complaint:

```lean
example (n : ℕ) (σ : Equiv.Perm (Fin n)) :
    Matrix.det (Matrix.submatrix (fun i j : Fin n => (0 : ℤ)) σ σ) = 0 := by
  sorry
```

So "wrap the `def` in `Matrix.of` and it compiles" is **not** a supported conclusion, and anyone picking this up should not spend time on it as stated.

The refined hypothesis from that investigation, which is consistent with all nine sites but has not been confirmed interactively: the failures sit inside `calc` steps of the form `congr 1; funext i j; simp [Matrix.submatrix_apply, …]` (see 374→382 and 661→668). That chain partially unfolds `submatrix`/`Matrix` before the lambda's type is pinned, so by the time `det`/`submatrix` are applied downstream the argument has already been elaborated as a bare `Fin n → Fin n → ℤ` with no expected-type hint left to reintroduce the `Matrix` view.

## Suggested next step

This wants live goal inspection in an editor infoview at each site, not more batch build cycles. The likely fix direction is to introduce `Matrix.of (fun i j => …)` at the point where the matrix first enters the `calc`/`congr` chain (around lines 370, 440, 510, 530, 655, 680, 790) rather than relying on `det`'s expected-type hint — but per the above, confirm that against a real goal before committing to it.

A fuller 183-line capture of every goal state exists locally at `docs/KroneckerDelta_Build_Failure.md` (untracked); happy to commit it if useful.

## Caveats

- **The count is a floor, not a total.** Lake stops at a failing module, so dependents are skipped rather than reported. Expect more as these clear.
- Toolchain is the repo pin, `leanprover/lean4:v4.33.0`, with the matching mathlib.
- No fix attempted here; this is a report.

**Comment by wdconinc** [comment]
## Fixed — root cause was `Matrix` transparency, and the previous diagnosis was wrong on two points

Branch `fix/kronecker-delta-build` @ `17968373` (base `c9edce681`). Verified on grex: `lake build Physlib.Mathematics.KroneckerDelta.Basic` → `Built Physlib.Mathematics.KroneckerDelta.Basic (5.7s)`, `Build completed successfully (3006 jobs).`, exit 0. **9 errors → 0.**

### Root cause

`Matrix m n α` is a *semireducible* `def` for `m → n → α`. Term elaboration runs at **default** transparency, so a bare `fun i j => …` is happily accepted where a `Matrix` is expected — which is why every statement in the `extendIndices` / `Fin.cycleRange` block elaborated without complaint. But the resulting expression is **not type-correct at `implicit`/reducible transparency**, which is the level at which `rw` matches patterns and `simp` checks instances. So every *tactic* step operating on such a term failed:

| site | tactic | symptom |
|---|---|---|
| `:374`, `:661` | `congr 1; funext i j; simp [...]` | unsolved goals |
| `:382`, `:668` | `rw [Matrix.det_submatrix_equiv_self]` | pattern `(submatrix ?A ⇑?e ⇑?e).det` not found |
| `:446`, `:518`, `:685` | `simp only [Matrix.submatrix_apply]` / `rw` | pattern not found |
| `:534` | `rw [Matrix.det_permute]` | pattern `(submatrix ?M (⇑?σ) id).det` not found |
| `:794` | `simp_rw [Matrix.det_succ_column _ (Fin.last n)]` | `simp` made no progress |

all accompanied by the diagnostic *"The target expression is not type-correct under the `implicit` transparency level."*

Wrapping the lambda in `Matrix.of` — definitionally the identity (`Equiv.refl`), but *syntactically* of type `Matrix` — restores reducible-level type-correctness and all nine sites go through. Two lemmas in this same file (`generalizedKroneckerDelta_swap`, `generalizedKroneckerDelta_comp_perm`) and all of `KroneckerDelta/Contraction.lean` already did exactly this; the block added in a09fe3e8 did not.

### Corrections to the earlier diagnosis (`docs/KroneckerDelta_Build_Failure.md`)

1. **"`Matrix.of` was ruled out — a bare lambda still elaborates as a `Matrix`."** The isolated counter-test proved its `example` with `sorry`, so it only exercised *statement elaboration* at default transparency — never the step that was failing. Re-running the identical example with a real tactic reproduces the failure exactly:
   ```lean
   example (n : ℕ) : Matrix.det (fun _ _ : Fin n => (0 : ℤ)) = 0 := by simp
   -- error: `simp` made no progress
   -- Application type mismatch: fun x x_1 => 0 has type Fin n → Fin n → ℤ
   --   but is expected to have type Matrix (Fin n) (Fin n) ℤ
   ```
   `Matrix.of` **is** the fix.
2. **"The problem is local to these proof scripts — the `calc` + `congr`/`funext`/`simp` chain strips the expected-type hint."** Not local. The failure reproduces at a fresh top-level `example` with no `calc`, no `congr` and no `funext`. The `Matrix.of`-wrapped versions of the same reduced `calc` and `funext` scripts pass.
3. The ninth error is at **`:794`** (`simp_rw [Matrix.det_succ_column …]`), not `:793`.

### What changed

- 34 bare `fun i j => δℤ …` matrix arguments wrapped in `Matrix.of`, including the body of `generalizedKroneckerDelta` itself, so that unfolding it yields a well-formed matrix term.
- `Matrix.of_apply` added to the three `simp only [Matrix.submatrix_apply]` calls that must now see through the wrapper.
- One genuinely new line: `simp only [Matrix.of_apply]` after `simp_rw [Matrix.det_succ_column _ (Fin.last n)]`. `det_succ_column` emits entry terms of the form `Matrix.of M i (Fin.last n)`, whereas `laplace_last_term'` / `laplace_castSucc_term'` are stated in the `δℤ _ _` form; without this normalisation the wrap alone leaves one residual failure at `:811`. This was the only error the mechanical wrap did not resolve, and it was introduced *by* the wrap rather than pre-existing.

No `sorry`, no `axiom`, no statement weakened — `Matrix.of` is the identity map, so every lemma keeps its original mathematical content. `./scripts/lint-style.sh` passes.

### Nothing new exposed downstream

This module is `✖ [7724/7862]`, the first failure in build order, so everything behind it was previously skipped rather than reported. All six importers were built individually with the patch applied and **all are green** (exit 0 each): `KroneckerDelta.Contraction`, `Mathematics.LeviCivita.Basic`, `Relativity.PauliMatrices.Basic`, `Relativity.Tensors.RealTensor.Metrics.LeviCivita`, `QuantumMechanics.Operators.Commutation`, `QuantumMechanics.HarmonicOscillator.Eigenstates`.

Two **warnings** (not errors) are newly *visible*, because the declarations that carry them now elaborate at all: `unusedSectionVars` at `:640` and `:671`, both `[Fintype ι]` unused in `generalizedKroneckerDelta_last_eq_front'` / `bordered_submatrix_last_eq'`. They are latent defects in the original source, they do not fail `lake build -KCI`, and they are left untouched here; `omit [Fintype ι] in` would clear them. Three pre-existing `haveI`-style warnings (`:328`, `:389`, `:454`) are unchanged.

Caveat on scope: the repo's own Lean linters (`sorry_lint`, `runPhyslibLinters`, `check_file_imports`) cannot be built on grex — they are `lean_exe` targets whose toolchain clang needs GLIBC 2.29 against the compute nodes' 2.28 — so linter conformance here is a source-level claim, not a machine-verified one. The `lake build` result is machine-verified.

**Comment by wdconinc** [comment]
Fixed in #18 — nine errors to zero, verified on grex against `master` `c9edce68` (`Build completed successfully (3006 jobs)`, zero `^error` lines; the unpatched baseline at the same commit exits 1 with 9).

**This issue's central claim is wrong and I want to correct it explicitly, since I wrote it.**

The body states that the `Matrix.of` hypothesis "was tested in isolation and does not hold." That disproof was methodologically flawed: the isolation test proved its example with `sorry`, which exercises only *statement elaboration* — and elaboration was never the failing step. Swap in a real tactic and the same example fails exactly as the module does:

```lean
example (n : ℕ) : Matrix.det (fun _ _ : Fin n => (0 : ℤ)) = 0 := by simp
-- simp made no progress
-- Application type mismatch: fun x x_1 => 0 has type Fin n → Fin n → ℤ
--   but is expected to have type Matrix (Fin n) (Fin n) ℤ
```

`Matrix.of` **is** the fix. The refined hypothesis I offered instead — that the problem was local to the `calc` + `congr`/`funext` chains — is also wrong; the failure reproduces at a fresh top-level `example` with none of those.

**The actual mechanism.** `Matrix m n α` is a semireducible `def` for `m → n → α`. Term elaboration runs at *default* transparency, so a bare `fun i j => …` is accepted where a `Matrix` is expected and every statement here elaborated fine. But the result is not type-correct at *reducible* transparency, which is where `rw` matches patterns and `simp` checks instances — hence every failure carrying "the target expression is not type-correct under the `implicit` transparency level". Wrapping in `Matrix.of` (definitionally the identity) restores reducible-level type-correctness.

Two further corrections:

- **Provenance.** I described this as pre-existing upstream content. It is not. The block was added to this fork on 2026-09-09 by `a09fe3e8` (+758 lines) and is contained in **zero** `origin/` branches. It is "pre-existing" only relative to the DIS merge, and it was committed without ever being compiled.
- **The ninth site is `:794`** (`simp_rw [Matrix.det_succ_column …]`), not `:793`.

Two things worth a decision separately from the build fix. `KroneckerDelta/Contraction.lean` — which *is* upstream — already proves the same contraction result by a Schur-complement route and already uses `Matrix.of` throughout, so this block may be redundant. And two `linter.unusedSectionVars` warnings at `:640`/`:671` became visible once the declarations started elaborating; left untouched to keep the change minimal.

All six downstream importers were built individually with the patch and all exit 0, so nothing was hiding behind this first-in-build-order failure.
